US07504408B2
ii) Preparation of 5-iodo-1-[(4-methylphenyl)sulfonyl]-1H-pyrazole
A solution of 1-[(4-methylphenyl)sulfonyl]-1H-pyrazole (2.0 g, 9.0 mmol) in THF (50 ml) was cooled to −78 C under a nitrogen atmosphere. To this was added tert butyl lithium (5.9 ml) in pentane (1.7M, 10 mmol). After 10 minutes iodine (2.53 g, 10 mmol) in THF (10 ml) was added and the reaction mixture was stirred for a further 30 minutes before allowing to warm to ambient temperature followed by stirring for 12 hours. A saturated solution of ammonium chloride was added and the mixture was partitioned between water and ethyl acetate. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by flash chromatography on silica eluting with a mixture of 20-100% dichloromethane in hexane to give the product as a solid (0.96 g, 30%).

reactant | 1-[(4-methylphenyl)sulfonyl]-1H-pyrazole | 9.0 mmol, 2.0 g | CC1=CC=C(C=C1)S(=O)(=O)N1N=CC=C1 | C10H10N2O2S
reactant | tert butyl lithium | 5.9 ml | C(C)(C)(C)[Li]
reactant | pentane | 10 mmol, 1.7M | CCCCC | C5H12
reactant | iodine | 10 mmol, 2.53 g | II | I2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-iodo-1-[(4-methylphenyl)sulfonyl]-1H-pyrazole | 0.96 g, 30% | IC1=CC=NN1S(=O)(=O)C1=CC=C(C=C1)C | C10H9IN2O2S
